US05656762
To a solution of 12.4 g p-tolunitrile in 500 mL of diethyl ether was added 23 g of solid lithium bis(trimethylsilyl)amide at ambient temperature. The mixture was stirred for 2 hours then hydrolysed with 10% HCl at 0° C. The mixture was stirred for an additional 30 minutes and then concentrated to dryness to yield 6 g of 4-methylbenzamidine hydrochloride which was used in the next step without further purification.

reactant | p-tolunitrile | 12.4 g | C1(=CC=C(C=C1)C#N)C | C8H7N
reactant | lithium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | HCl | Cl | ClH
solvent | diethyl ether | 500 mL | C(C)OCC | C4H10O
product | 4-methylbenzamidine hydrochloride | 6 g | Cl.CC1=CC=C(C(=N)N)C=C1 | InChI=1S/C8H10N2.ClH/c1-6-2-4-7(5-3-6)8(9)10;/h2-5H,1H3,(H3,9,10);1H
